US08076502B2
0.65 mL of thionyl chloride was added to 800 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid suspended in 8 mL of methanol at ice-cooling, and the mixture was stirred for 4 hours at 50° C. The mixture was further stirred for 3 hours at room temperature, and methanol was distilled under reduced pressure. After 20 mL of hexane was added to the residue, the mixture was stirred for 2 hours, and then the solids were filtered. The solids were washed with diisopropyl ether and hexane, thereby yielding 820 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-methyl ester hydrochloride.

reactant | thionyl chloride | 0.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 800 mg | N[C@@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)C(=O)O | C15H14Cl2FNO5
reactant | methanol | 8 mL | CO | CH4O
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-methyl ester hydrochloride | 820 mg | Cl.COC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)O)N)OCC1=CC(=C(C=C1)Cl)Cl)F | InChI=1S/C16H16Cl2FNO5.ClH/c1-24-14(23)15(19)8-5-11(16(20,12(8)15)13(21)22)25-6-7-2-3-9(17)10(18)4-7;/h2-4,8,11-12H,5-6,20H2,1H3,(H,21,22);1H/t8-,11-,12+,15-,16+;/m1./s1
